Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
leg swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
PRIMARY ONCOLOGIST:  ___
PRIMARY DIAGNOSIS: Metastatic Prostate Cancer 
TREATMENT REGIMEN: Lupron
 
CHIEF COMPLAINT:  Leg Swelling
HISTORY OF PRESENT ILLNESS:  
___ PMH of CAD (s/p stent), HTN, Metastatic Prostate Cancer (on
Lupron), presented with lower extremity swelling, found to have
DVT + PE, admitted for further care. 

Patient reports that he has 2 days of acute left lower extremity
swelling.  He noted that his leg is edematous, nontender,
nonpainful.  Denied any periods of immobility or trauma prior to
the swelling.  Is a non-smoker.  No history of clots in the 
past.
Presented to urgent care in ___ was found to have a DVT 
and
was referred to main campus.  He noted that he is without chest
pain but does have dyspnea on exertion while walking upstairs.  

In the ED, initial vitals:  97.1 60 124/69 16 100% RA. CBC with
Hgb 12.3 otherwise normal, Coags wnl, CHEM w/ Na of 134, Trop
<0.01

CT Pelvis w/ contrast:
Nonocclusive acute thrombus in the left common femoral vein.

CTA Chest:
Acute thromboemboli in the bilateral main pulmonary arteries,
with extension into segmental and subsegmental branches to all
lung lobes. No CT evidence of right heart strain. Main pulmonary
artery diameter remains within normal limits. 

Patient was started on heparin gtt and admitted for further 
care.

 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
As per last ___ clinic note:
Mr. ___ PSA had risen from 3.2 in ___ to 6.5 in
___, 7.0 in ___, and 9.1 in ___. This
prompted a referral to Dr. ___ performed transrectal
ultrasound-guided biopsy ___. Pathology from 20 cores showed
___ 4+3 disease involving a core from the right base with 
70%
of submitted tissue involved, ___ 3+4 disease involving 
cores
from the right mid prostate and right mid base with ___ of
submitted tissue involved, and ___ 3+3 disease involving 15%
of a core from the left base.  Additionally, there was an
atypical glandular focus in a core from the right mid prostate.  


Bone Scan ___ showed degenerative thoracic spine disease 
but
no bony metastases. Prostate MRI ___ showed a 50.5
mL prostate.  There was a large area of low signal on 
T2-weighted
images in the left superior central gland with abnormal kinetics
suggestive of central tumor.  There was also a large area of
low-signal intensity in the right base extending into midline 
and
left superiorly and into the base of the seminal vesicles also
demonstrating abnormal kinetics.  There were also two additional
small foci in the right apex with suspicious kinetics.  This was
consistent with T3b disease and worrisome for central tumor in
the left superior central gland.

He was treated by Dr. ___ with 4500 cGy EBRT to the
prostate and seminal vesicles and ___ cGy CyberKnife to the
prostate and proximal seminal vesicles. No ADT was given due to
comorbid cardiac disease and lack of evidence for additional
efficacy in combination with the above radiation therapy. He
received radiation from ___ - ___.

Following radiation, his PSA decreased to 1.3 by ___.
However, it immediately began to rise thereafter. It increased 
by
almost 2 ng/mL about a year later, ___.
Bone scan ___ showed no bony metastases. Prostate MRI 
___
showed diffuse T2 signal abnormality
throughout the peripheral zone, demonstrating progressive
enhancement, likely representing post-treatment changes without
definite evidence for tumor.  However, there was an 8-mm left
external iliac node, which had previously been 3 mm and was
suspicious for nodal disease.

He was treated with CyberKnife to the external iliac lymph node
___ - ___. Follow-up CT showed resolution of this
lymphadenopathy. However, his PSA returned at 19.7 on ___, 
so
he was referred for evaluation for ADT. We initially evaluated
him on ___ and started him on a 4-week depot injections of
Lupron. 

For a while he was on intermittent Lupron but his PSA was rising
and he had some metastatic disease that shrunk on the Lupron and
now he is on continuous ADT.
 
PAST MEDICAL HISTORY:  
Nephrolithiasis
Metastatic prostate cancer as above
Hypertension
Coronary artery disease s/p multiple stents ___ yrs ago
 
Social History:
___
Family History:
Both parents died of heart disease, father in
his late ___. No family history neurologic disease.
 
Physical Exam:
Vitals:  97.8 PO 143 / 83 54 18 98 RA
GENERAL: Sitting in bed, calm, wife at bedside, no acute 
distress
EYES: Pupils equally round reactive to light, anicteric sclera
HEENT: Oropharynx clear, moist mixed membranes
NECK: Supple, normal range of motion
LUNGS: Clear to auscultation bilaterally no wheezes rales or
rhonchi, normal respiratory rate, no increased work of breathing
CV: Regular rate and rhythm, normal distal perfusion, 1+ edema 
to
the knee on left side, none on right
ABD: Soft, nondistended, nontender, normoactive bowel sounds
GENITOURINARY: No Foley or suprapubic tenderness
EXT: No deformity, has diffuse soft tissue swelling of left 
lower
extremity with 1+ edema to the knee, nontender to palpation.  No
evidence of trauma
SKIN: Warm dry, no rash
NEURO: Alert and oriented x3, fluent speech
ACCESS: Peripheral IV
 
Pertinent Results:
___ 06:30AM BLOOD WBC-5.5 RBC-3.74* Hgb-11.6* Hct-34.8* 
MCV-93 MCH-31.0 MCHC-33.3 RDW-13.6 RDWSD-46.5* Plt ___
___ 01:30PM BLOOD WBC-6.1 RBC-3.92* Hgb-12.3* Hct-36.8* 
MCV-94 MCH-31.4 MCHC-33.4 RDW-13.7 RDWSD-46.8* Plt ___
___ 06:30AM BLOOD ___ PTT-106.7 ___
___ 06:30AM BLOOD Glucose-102* UreaN-15 Creat-0.9 Na-143 
K-4.1 Cl-106 HCO3-24 AnGap-13
___ 01:30PM BLOOD Glucose-119* UreaN-18 Creat-0.9 Na-134* 
K-6.2* Cl-101 HCO3-24 AnGap-9*
___ 06:30AM BLOOD ALT-12 AST-12 AlkPhos-66 TotBili-0.5
___ 06:30AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.1
___ 02:50PM BLOOD K-4.5

CT Pelvis w/ contrast:
Nonocclusive acute thrombus in the left common femoral vein.

CTA Chest:
Acute thromboemboli in the bilateral main pulmonary arteries,
with extension into segmental and subsegmental branches to all
lung lobes. No CT evidence of right heart strain. Main pulmonary
artery diameter remains within normal limits.   

 
Brief Hospital Course:
___ PMH of CAD (s/p stent), HTN, Metastatic Prostate Cancer (on
Lupron), presented with lower extremity swelling, found to have
DVT + PE, admitted for further care. 

# Acute Left Common Femoral Vein DVT
# B/L Segmental PE w/o RHS

Presented with lower extremity swelling without provoking
factor other than malignancy, found to have nonocclusive 
thrombus
in left common femoral vein c/b acute PE in b/l main pulmonary
arteries with extension into all lung lobes but no e/o RHS.
Troponin negative and EKG without signs of ischemia. Was seen
by vascular team and did not feel he needed TTE so this was 
deferred. He was 100% on RA with low HR of 50-60s with minimal
DOE. He was treated with a heparin gtt and then transitioned to 
rivaroxaban on ___. 

# HTN
Pressures were in the 130s-140s off atenolol and dilt with a HR 
of ___
so he was instructed not to resume either medication until he 
sees 
his PCP/cardiologist. 

# HLD
- Continue Lipitor/zetia

# CAD s/p Stent in past
No longer on aspirin. Patient should discuss with outpatient 
cardiologist whether or not he should be on it

# Metastatic Prostate Cancer
Has follow up with Dr ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Ezetimibe 10 mg PO DAILY 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [Xarelto] 15 mg 1 tablet(s) by mouth twice a day 
Disp #*42 Tablet Refills:*0 
2.  Rivaroxaban 20 mg PO DAILY pulmonary embolism 
start this dose once you are done taking 15 mg twice a day for 
21 days 
RX *rivaroxaban [Xarelto] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM  
4.  Ezetimibe 10 mg PO DAILY  
5. HELD- Atenolol 50 mg PO DAILY  This medication was held. Do 
not restart Atenolol until your cardiologist instructs you to 
resume
6. HELD- Diltiazem Extended-Release 240 mg PO DAILY  This 
medication was held. Do not restart Diltiazem Extended-Release 
until your cardiologist instructs you to resume

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left common femoral vein
Bilateral segmental pulmonary embolism 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you in the hospital. You were 
admitted because you had clots in your lungs and legs. You were 
seen by the vascular team who specializes in treating clots. You 
were started on a medication called Xarelto and you will need to 
take this twice a day with food for 21 days, then you will take 
20 mg once a day. Please follow up with your primary care doctor 
within the next week. You will need to stop your home blood 
pressure medications because your heart rate was consistently 
lower than 60 while you were here. Please talk to your PCP about 
whether you need a different blood pressure medication.  

 
Followup Instructions:
___